US05959107
According to the method in Example 10, a mixture of 5-isoquinolinethiol 1.20 g (7.4 mmol), DMF 40 ml, potassium carbonate 2.00 g (14.5 mmol) and 5-chloro-2-nitrobenzonitrile 1.30 g (7.1 mmol) was stirred at room temperature for 2 hours, and 5-(5-isoquinolylsulfanyl)-2-nitrobenzonitrile 2.14 g (97.8%) was obtained.

reactant | 5-isoquinolinethiol | 7.4 mmol, 1.20 g | C1=NC=CC=2C(=CC=CC12)S | C9H7NS
reactant | potassium carbonate | 14.5 mmol, 2.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-chloro-2-nitrobenzonitrile | 7.1 mmol, 1.30 g | ClC=1C=CC(=C(C#N)C1)[N+](=O)[O-] | C7H3ClN2O2
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 5-(5-isoquinolylsulfanyl)-2-nitrobenzonitrile | 2.14 g, 97.8% | C1=NC=CC2=C(C=CC=C12)SC=1C=CC(=C(C#N)C1)[N+](=O)[O-] | C16H9N3O2S
